US03943124
17β-Cyano-2α,3α-epoxy-5α-androstan-11-one
A solution of 17β-cyano-5α-androst-2-en-11-one (2.8g.) and 85% m-chloroperbenzoic acid (2.0g.) in chloroform (50 ml.) was stirred for 1.5 hour at room temperature and then diluted with chloroform (75 ml.). This solution was washed with aqueous 10% sodium bicarbonate and water prior to drying. Filtration and evaporation afforded a solid (3.18g.) which was recrystallised from ether/petrol to afford the pure title compound; m.p. 206°-208°; [α]D + 93°, (c 0.7).

reactant | 17β-cyano-5α-androst-2-en-11-one | 2.8g | C(#N)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC=CC[C@]3(C)[C@H]1C(C2)=O | C20H27NO
reactant | m-chloroperbenzoic acid | 2.0g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | 17β-Cyano-2α,3α-epoxy-5α-androstan-11-one | C(#N)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@H]4[C@@H](C[C@]3(C)[C@H]1C(C2)=O)O4 | C20H27NO2
